US07872023B2
A 2.0 M solution of LDA in heptane/THF/ethylbenzene (1.61 mL, 3.21 mmol) was added in a dropwise manner to a solution of 7-methoxy-isothiochroman-4-one (0.50 g, 2.57 mmol) in THF (50 mL) at −78° C. under N2. After 30 min at −78° C. HMPA (0.46 g, 2.57 mmol) and methyl cyanoformate (0.27 g, 3.21 mmol) were added and the yellow solution was allowed to stir at −78° C. for 30 min. The solution was then allowed to warm to room temperature and a saturated solution of NH4Cl (100 mL) was added. The slurry was extracted with EtOAc (3×75 mL) and the organic extracts were combined, dried (MgSO4) and concentrated under reduced pressure to provide a bright yellow oil. The oil was purified on silica using medium pressure chromatography (9:1 petroleum ether/EtOAc) to provide 7-methoxy-isothiochroman-4-one-3-carboxylic acid methyl ester as a bright yellow oil (0.51 g, 78%). 1H-NMR (300 MHz, CDCl3) δ 3.73 (s, 2H), 3.83 (s, 3H), 3.85 (s, 3H), 6.67 (d, J=3 Hz, 1H), 6.45 (dd, J=3, 8.7 Hz, 1H), 7.80 (d, J=8.7 Hz, 1H), 12.52 (s, 1H).

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | heptane THF ethylbenzene | 3.21 mmol, 1.61 mL | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
reactant | 7-methoxy-isothiochroman-4-one | 2.57 mmol, 0.50 g | COC1=CC=C2C(CSCC2=C1)=O | C10H10O2S
reactant | HMPA | 2.57 mmol, 0.46 g | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | methyl cyanoformate | 3.21 mmol, 0.27 g | C(#N)C(=O)OC | C3H3NO2
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 7-methoxy-isothiochroman-4-one-3-carboxylic acid methyl ester | 0.51 g, 78% | COC(=O)C1SCC2=CC(=CC=C2C1=O)OC | C12H12O4S
